US07951810B2
Step d: Ethyl 2-[(3aR,4R,6R,6aR)-6-(6-chloro-9H-purin-9-yl)-2,2-dimethyltetrahydrofuro[3,4-d][1,3]dioxol-4-yl]ethanesulfonate
Ethyl 2-[(3aR,4R,6R,6aR)-6-(6-chloro-9H-purin-9-yl)-2,2-dimethyltetrahydrofuro[3,4-d][1,3]dioxol-4-yl]ethenesulfonate (10.500 g, 0.024370 mol) was dissolved in ethanol (200 mL, 3 mol) in a 1-necked round-bottom flask. Sodium borohydride (507.1 mg, 0.01340 mol) was added in 2 portions, 10 min apart. The reaction was stirred for a further 15 min at 25° C. The reaction was diluted with water (400 mL) and 5M ammonium chloride in water (50 mL) and was concentrated in vacuo to remove most of the ethanol. The aqueous residue was extracted with methylene chloride (2×250 mL) and the organic phase was concentrated in vacuo to yield crude product (9.83 g).

reactant | Ethyl 2-[(3aR,4R,6R,6aR)-6-(6-chloro-9H-purin-9-yl)-2,2-dimethyltetrahydrofuro[3,4-d][1,3]dioxol-4-yl]ethenesulfonate | 0.024370 mol, 10.500 g | ClC1=C2N=CN(C2=NC=N1)[C@@H]1O[C@@H]([C@@H]2[C@H]1OC(O2)(C)C)C=CS(=O)(=O)OCC | C16H19ClN4O6S
reactant | ethanol | 3 mol, 200 mL | C(C)O | C2H6O
reactant | Sodium borohydride | 0.01340 mol, 507.1 mg | [BH4-].[Na+]
solvent | water | 400 mL | O | H2O
solvent | ammonium chloride | 5M | [Cl-].[NH4+]
solvent | water | 50 mL | O | H2O
product | Ethyl 2-[(3aR,4R,6R,6aR)-6-(6-chloro-9H-purin-9-yl)-2,2-dimethyltetrahydrofuro[3,4-d][1,3]dioxol-4-yl]ethanesulfonate | 9.83 g | ClC1=C2N=CN(C2=NC=N1)[C@@H]1O[C@@H]([C@@H]2[C@H]1OC(O2)(C)C)CCS(=O)(=O)OCC | C16H21ClN4O6S
